US08975254B2
(S)—N-(1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)-2-(pyridin-4-yl)thiazole-4-carboxamide was prepared using the method of Example 34(d) starting from 2-(4-pyridyl)thiazole-4-carboxylic acid (0.190 g, 0.921 mmol) and (S)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2-chlorobenzonitrile (0.2 g, 0.767 mmol). The product triturated using diethyl ether. Yield 47.5%. 1H-NMR (400 MHz; MeOD): δ 1.33 (d, 3H), 4.40 (dd, 1H), 4.47 (dd, 1H), 4.60-4.65 (m, 1H), 6.77 (d, 1H), 7.63 (d, 1H), 7.74 (d, 1H), 7.82 (dd, 1H), 7.93 (d, 1H), 8.00 (dd, 1H), 8.01 (dd, 1H), 8.30 (s, 1H), 8.65 (dd, 1H), 8.66 (dd, 1H).

reactant | 2-(4-pyridyl)thiazole-4-carboxylic acid | 0.921 mmol, 0.190 g | N1=CC=C(C=C1)C=1SC=C(N1)C(=O)O | C9H6N2O2S
reactant | (S)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2-chlorobenzonitrile | 0.767 mmol, 0.2 g | N[C@H](CN1N=C(C=C1)C1=CC(=C(C#N)C=C1)Cl)C | C13H13ClN4
product | (S)—N-(1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)-2-(pyridin-4-yl)thiazole-4-carboxamide | Yield 47.5% | ClC=1C=C(C=CC1C#N)C1=NN(C=C1)C[C@H](C)NC(=O)C=1N=C(SC1)C1=CC=NC=C1 | C22H17ClN6OS
